US09290485B2
b) tent-Butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate
To a mixture of tert-butyl 5-cyano-4,6-dimethylpyridin-2-ylcarbamate (10.8 g, 43.7 mmol) in THF (100 ml) were added about 15 cm3 of a Raney-Ni suspension in MeOH under Ar. The flask was sealed, and the suspension was vigorously stirred at it for 6 d under an atmosphere of hydrogen. The reaction mixture was filtered over a plug of cellite and eluted with DCM (200 ml), DCM-MeOH (9:1, 200 ml) and NH3 in MeOH (7N, 100 ml). Removal of all volatiles in vacuo afforded the crude product which was recrystallized from MeOH-DCM to afford the title compound. LCMS RtM=1.13 min, [M+H]+=252.2.

reactant | tert-butyl 5-cyano-4,6-dimethylpyridin-2-ylcarbamate | 43.7 mmol, 10.8 g | C(#N)C=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H17N3O2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | Butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate | NCC=1C(=CC(=NC1C)NC(OCCCC)=O)C | C13H21N3O2
